US05102877
To a solution of (R)-1-t-butoxycarbonyl-3-methanesulfonyloxypyrrolidine (20 g) in dimethyl sulfoxide (200 ml) was added sodium cyanide (11 g) at ambient temperature under nitrogen. After stirring at 100° C. under nitrogen for 1 hour, the solution was taken up into a mixture of ethyl acetate and water. The organic layer was separated, and washed with water and brine successively. The dried solvent was evaporated, and the residue was chromatographed on silica gel eluting with a mixture of n-hexane and ethyl acetate (2:1, V/V) to give (S)-1-t-butoxycarbonyl-3-cyanopyrrolidine (9.0 g).

reactant | (R)-1-t-butoxycarbonyl-3-methanesulfonyloxypyrrolidine | 20 g | C(C)(C)(C)OC(=O)N1C[C@@H](CC1)OS(=O)(=O)C | C10H19NO5S
reactant | sodium cyanide | 11 g | [C-]#N.[Na+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | water | O | H2O
solvent | dimethyl sulfoxide | 200 ml | CS(=O)C | C2H6OS
product | (S)-1-t-butoxycarbonyl-3-cyanopyrrolidine | 9.0 g | C(C)(C)(C)OC(=O)N1C[C@H](CC1)C#N | C10H16N2O2
